US04874894
With stirring, 51.5 g (0.525 m) of 100 percent sulfuric acid was added to a mixture of 54.0 g (0.5 m) of anisole and 46.0 ml (0.5 m) of phosphorus oxychloride allowing the temperature to rise to approximately 45° C. during the addition. While attempting to maintain approximately 45° C. the temperature slowly rose to approximately 53° C. after about two hours. After stirring overnight at ambient temperature, 6.0 g of sodium chloride was added and the resulting mixture was heated to and maintained at approximately 90° for about four hours. The reaction mixture was cooled and poured onto a mixture of 500.0 g ice, 250.0 ml of water and 30.0 g of sodium chloride. The solid which formed was collected by filtration, washed with cold water and dried to obtain 96.5 g of 4-methoxybenzenesulfonyl chloride a gray-white solid. The nuclear magnetic resonance spectrum was in accord with the desired product.

reactant | sulfuric acid | 51.5 g | S(O)(O)(=O)=O | H2O4S
reactant | anisole | 54.0 g | C1(=CC=CC=C1)OC | C7H8O
reactant | phosphorus oxychloride | 46.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium chloride | 6.0 g | [Cl-].[Na+]
reactant | sodium chloride | 30.0 g | [Cl-].[Na+]
solvent | water | 250.0 ml | O | H2O
product | 4-methoxybenzenesulfonyl chloride | 96.5 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
